Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
malaise, weight loss, ? viral illness vs tick-borne

 
Major Surgical or Invasive Procedure:
PICC line placement
platelet transfusions x2
punch biopsy on right foot

 
History of Present Illness:
___ yo G5P3 at 22w1d presents as a transfer from ___ with one month of nausea/vomiting, diarrhea, malaise,
20lb weight loss with anorexia, diffuse bug bites, intermittent
fever at home, and occasional confusion and blurry spots.  She
reports that she recently moved to a new house on a wetland and
has noted bites x1 month.  

She has been seen several times over the past month and 
platelets
have fallen from 278 in ___ on ___, to 30 prior to
transfer.  In addition, Cr 1.2 and ALT mildly elevated at 47. 
CBC notable for relative leukopenia in pregnancy at 7.9 at
___.  There, lyme neg, ___ neg, HIV neg, RF neg.

 
Past Medical History:
?RA, not active

 
Social History:
married, denies t/e/d

 
Physical Exam:
Vital signs: T 97.6 HR 98 RR 18 96/56
General: NAD
Cardiac: RRR
Pulm: CTA
Abdomen: soft, gravid, NT
No peripheral edema
arms and legs with many small papular ?bites with scabs, no 
other
rash or targetoid lesion

 
Pertinent Results:
___
___ 08:30PM BLOOD WBC-3.3* RBC-1.99* Hgb-6.3* Hct-18.8* 
MCV-95 MCH-31.6 MCHC-33.3 RDW-14.0 Plt Ct-26*

___ 08:30AM BLOOD WBC-14.5* RBC-2.64* Hgb-8.6* Hct-25.0* 
MCV-95 MCH-32.6* MCHC-34.5 RDW-17.8* Plt Ct-46*

Differential
___ 02:03AM BLOOD Neuts-61 Bands-9* Lymphs-15* Monos-5 
Eos-0 Baso-2 Atyps-4* Metas-3* Myelos-1*

___ 08:30AM BLOOD Neuts-73* Bands-1 Lymphs-17* Monos-2 
Eos-1 Baso-3* Atyps-2* Metas-1* Myelos-0

___ 1:37 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   VIRAL CULTURE (Final ___: 
      ENTEROVIRUS.    PRESUMPTIVE IDENTIFICATION.

___ 02:03AM   HIV Ab-NEGATIVE
___ 02:03AM   HCV Ab-NEGATIVE
 
Brief Hospital Course:
___ year old ___ week pregnant female presenting with ___ months 
viral-like symptoms including N/V, weight loss, fatigue, also 
with worsening thrombocytopenia

MICU COURSE
Patient was transferred to the MICU on ___ due to worsening 
tachypnea/tachycardia and new oxygen requirement in the setting 
of a platelet transfusion.  

# Oxygen Requirement:  Initial differential for this included 
TRALI vs acute PE vs new pneumonia vs CHF.  Patient had a low 
grade fever to 100.3 during platelet transfusion as well as a 
fever to 101.3 several hours after transfusion.  Blood cultures 
were sent, which were negative.  A transfusion work-up was sent, 
and recommendations were made that she could receive platelets 
if needed given the fact that her febrile reaction was 
non-hemolytic.  A CTA was done, which ruled out PE.  It did show 
a new multifocal pneumonia for which she was started on 
Vanc/Zosyn.  It also showed new bilateral pleural effusions, 
R>L.  A pro-BNP was sent, which came back at 30,000.  An ECHO on 
___ showed a EF of 25%.  Cardiology was consulted, who 
recommended keeping her fluid balance even.  She was placed on 
fluid restrictions, gently diuresed with lasix for one day.  Her 
systolic function improved on repeat ECHO on ___.  The patient 
initially required ___ NC to maintain her sats in the mid ___.  
Her oxygen was slowly weaned off and she was deemed appropriate 
to transfer to the antepartum floor on ___... 

# Viral-like syndrome:  Patient presented with symptoms 
consistent with gastroenteritis manifested by ___ months 
nausea/vomiting and diarrhea.  ID, rheum, and heme/onc were 
consulted.  VZV IgM ab was positive at one point, prompting a 
course of acyclovir starting on ___.  This was switched to 
valgancylovir as per ID recs.  Her VZV viral load returned 
negative, however, and she reported a history of chickenpox in 
childhood, making primary VZV infection unlikely.  Bactrim was 
started on ___ out of concern for Q fever.  Rheumatologic 
workup was positive only for anticardiolipin antibody IgM, which 
was considered a nonspecific result...  

# Thrombocytopenia: Differential included bone marrow 
suppression from infection vs. infiltrative bone marrow procees 
vs. consumption from DIC.  Patient was noted to have borderline 
splenomegaly on ultrasound.  DIC and hemolysis labs were 
negative.  Heme/onc was consulted.  Bone marrow was done which 
revealed reactive appearing marrow with no apparent pathology.  

# Adrenal insufficiency: patient presented to the ICU with blood 
pressures in the ___ systolic, hyponatremic, as well as 
hypoglycemic with glucose in the ___.  A cosyntropin stim test 
was done, with results consistent with adrenal insufficiency.  
Endocrine was consulted, who recommened IV hydrocortisone 150.  
Her symptoms and mood improved upon administration of steroids.  
These steroids were tapered before transfer to the antenatal 
unit.    
- monitor LFTs, coags

# Insulin resistance: Patient was initially borderline 
hypoglycemic in the ICU but became insulin resistant in the 
setting of high dose IV steroids for adrenal insufficiency.  
Diabetes in pregnancy was consulted who recommended started a 
sliding scale.  She will need an OGTT as an outpatient after 
discharge.

#?Placental hematoma:  as per antepartum note, had enlarging 
signal on placental ultrasound concerning for hematoma.  ___ 
monitored this with ultrasounds and felt it was most likely not 
consistent with hematoma.  Her hematocrit was monitored and it 
was not felt necessary to have a specific platelet transfusion 
goal.  

#Abnormal LFTs: Patient had intermittent elevated bilirubin 
without signs of hemolysis of obstruction.  Her alk-phos 
elevated without elevation in transaminases, likely secondary to 
placental production. Her abdominal exam remained benign and a 
RUQ US was negative for hepatic process.

# Dermatologic lesions: Patient had waxing and waning 
dermatologic lesions during her hospital stay.  Dermatology was 
consulted and performed a skin biopsy on ___ with results 
consitent with hypersensitivity.  She will need suture removal 
with derm on ___ (2 weeks).

Since MICU: pt transferred back to OB. Did well with improving 
pulmonary function and autodiuresis. Repeat echo with EF 45%. 
Mitral regurgitation. Her stool culture returned positive for 
enterovirus. Antibiotics were discontinued and she continued to 
do well. Lab abnormalities were stable/improved. Plts on day of 
discharge were 46.  Followed by ___ endocrine, hematology, ID 
and cardiology. Plan post discharge is to continue to be 
followed by these services as an outpatient. She will also see 
Dr. ___ on ___ for followup. 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Calcium Carbonate 500 mg PO QID:PRN GERD 
3. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*180 Tablet Refills:*9
4. Levothyroxine Sodium 75 mcg PO DAILY 
take on an empty stomach 
RX *levothyroxine 75 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. Hydrocortisone 10 mg PO QAM 
RX *hydrocortisone 10 mg 1 tablet(s) by mouth qAM Disp #*30 
Tablet Refills:*0
6. Hydrocortisone 2.5 mg PO QPM 
RX *hydrocortisone 5 mg 0.5 (One half) tablet(s) by mouth at 
night Disp #*15 Tablet Refills:*0
7. Humalog 0 Units Breakfast
Humalog 2 Units Lunch
Humalog 2 Units Dinner
NPH 14 Units Bedtime
RX *blood sugar diagnostic [One Touch Ultra Test]   one strip 4 
times daily Disp #*200 Unit Refills:*6
RX *insulin lispro [Humalog] 100 unit/mL total daily dose 4 
units 0 Units before Bkfst; 2 Units before Lunch; 2 Units before 
Dinnr; Disp #*1 Vial Refills:*6
RX *lancets [One Touch UltraSoft Lancets]   one lancet four 
times daily Disp #*200 Unit Refills:*6
RX *NPH insulin human recomb [Humulin N] 100 unit/mL use once 
daily 14 Units before BED; Disp #*1 Vial Refills:*6
RX *insulin syringe-needle U-100 29 gauge X ___ use with 
insulin before breakfast, lunch, dinner, at night Disp #*200 
Syringe Refills:*6
8. Nephrocaps 1 CAP PO DAILY 
RX *B complex-vitamin C-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*90 Capsule Refills:*9

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
24 wk pregnancy
Enterovirus
Thrombocytopenia
Pneumonia
Cardiomyopathy
Gestational diabetes
Adrenal Insufficiencey
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted for supportive care of a severe viral illness, 
which after an extensive workup, was found to be due to 
Enterovirus. Due to the severity of your illness, you were 
transferred to the ICU for 4 days. Many services were consulted 
to assist in your evaluation and care. You will need followup by 
infectious disease, endocrine, and cardiology in addition to OB. 
(see appointments)

Arrangements will be made for you to see an endocrinologist. You 
should continue checking your fingersticks and getting insulin 
as you have been. Your insulin regimen at the time of discharge 
is 2 units of Humalog (lispro) with lunch and dinner and 14 
units of NPH at bedtime. While you were here, you were diagnosed 
with hypothyroidism. You were started on thyroid replacement. It 
is important that your thyroid studies get rechecked around ___. You were also diagnosed with adrenal insufficiency and 
should continue on hydrocortisone as directed by your 
endocrinologist.

You were not given a prescription for Protonix due to your low 
platelets. If they are stable as an outpatient your hematologist 
may agree that it is safe to start Protonix.

You will need to see your PCP or ___ on ___ for the suture to 
be removed from your foot. You will need to follow up with your 
hematologist.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___